US07163947B2
A solution of tert-butyl N-(1H-imidazo[4,5-c]quinolin-1-yl)carbamate (6.74 g, 23.7 mmol) in 40 mL of ethanol was treated with 40 mL of HCl (40 mL, 119 mmol, 3 M in ethanol) and heated to reflux. After 1 h, the reaction mixture was cooled to ambient temperature, diluted with 80 mL of diethyl ether, and cooled in an ice water bath which precipitated a tan solid. The HCl salt of the product was collected by vacuum filtration and rinsed with diethyl ether until the filtrate ran clear. The dried HCl salt was dissolved in 75 mL of water and made basic by addition of 50% NaOH solution until the pH of the water was 12–13. The free base of the product precipitated out and was triturated in the basic water for 30 min while being cooled in an ice water bath. The solid was collected by vacuum filtration and dried under vacuum to give 2.86 g of 1H-imidazo[4,5-c]quinolin-1-amine as a tan granular solid.

reactant | tert-butyl N-(1H-imidazo[4,5-c]quinolin-1-yl)carbamate | 23.7 mmol, 6.74 g | N1(C=NC=2C=NC=3C=CC=CC3C21)NC(OC(C)(C)C)=O | C15H16N4O2
reactant | HCl | 119 mmol, 3 M, 40 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | diethyl ether | 80 mL | C(C)OCC | C4H10O
product | 1H-imidazo[4,5-c]quinolin-1-amine | 2.86 g | N1(C=NC=2C=NC=3C=CC=CC3C21)N | C10H8N4
